US07745641B2
5-(4-Methylpiperazin-1-ylcarbonyl)indol (5.80 g, 23.8 mmol) was dissolved in acetonitrile (170 mL), and the solution was added with di-tert-butyldicarbonate (15.6 g, 71.4 mmol) and DMAP (2.91 g, 23.8 mmol), followed by stirring at room temperature for 230 minutes. The reaction mixture was added with water and extracted with ethyl acetate. The organic layer was washed with saturated brine and was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (chloroform/methanol=95/5, 90/10) to obtain 5-(4-methylpiperazin-1-ylcarbonyl)-1-(tert-butoxycarbonyl)indole (7.83 g, yield 96%).

reactant | 5-(4-Methylpiperazin-1-ylcarbonyl)indol | 23.8 mmol, 5.80 g | CN1CCN(CC1)C(=O)C=1C=C2C=CNC2=CC1 | C14H17N3O
reactant | di-tert-butyldicarbonate | 71.4 mmol, 15.6 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | acetonitrile | 170 mL | C(C)#N | C2H3N
catalyst | DMAP | 23.8 mmol, 2.91 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-(4-methylpiperazin-1-ylcarbonyl)-1-(tert-butoxycarbonyl)indole | 7.83 g, yield 96% | CN1CCN(CC1)C(=O)C=1C=C2C=CN(C2=CC1)C(=O)OC(C)(C)C | C19H25N3O3
